US07902375B2
1-[5-(3-Fluoro-4-methanesulfonyl-phenyl)-4-methyl-thiazol-2-yl]-3-[2-(1-propyl-1H-imidazol-4-yl)-ethyl]-urea
A stirred mixture of 5-oxo-2-propyl-5,6,7,8-tetrahydro-imidazo[1,5-c]pyrimidin-2-ium bromide (Intermediate DA) (0.214 g, 0.83 mmol) and 5-(3-Fluoro-4-methanesulfonyl-phenyl)-4-methyl-thiazol-2-ylamine (Intermediate AA) (0.15 g, 0.55 mmol) and Et3N (0.48 ml, 3.3 mmol) is heated at 120° C. for 2 days. After cooling to room temperature the mixture is diluted with EtOAc (50 ml) and washed water followed by brine. The organic extract is dried (MgSO4) and the solvent is removed to give a solid. Purification by chromatography oh silica eluting with DCM:MeOH (95:5) affords the titled compound (0.06 g, 25%).

reactant | 5-oxo-2-propyl-5,6,7,8-tetrahydro-imidazo[1,5-c]pyrimidin-2-ium bromide | 0.83 mmol, 0.214 g | [Br-].O=C1NCCC=2N1C=[N+](C2)CCC
reactant | 5-(3-Fluoro-4-methanesulfonyl-phenyl)-4-methyl-thiazol-2-ylamine | 0.55 mmol, 0.15 g | FC=1C=C(C=CC1S(=O)(=O)C)C1=C(N=C(S1)N)C | C11H11FN2O2S2
reactant | Et3N | 3.3 mmol, 0.48 ml | CCN(CC)CC | C6H15N
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 1-[5-(3-Fluoro-4-methanesulfonyl-phenyl)-4-methyl-thiazol-2-yl]-3-[2-(1-propyl-1H-imidazol-4-yl)-ethyl]-urea | 0.06 g, 25% | FC=1C=C(C=CC1S(=O)(=O)C)C1=C(N=C(S1)NC(=O)NCCC=1N=CN(C1)CCC)C | C20H24FN5O3S2
